US03954741
A mixture of 4.96 g. (20 mmoles) of the N-cyclopropanecarbonyl-5-bromovaleramide prepared above, 7.86 g. (30 mmoles) of triphenylphosphine, and 50 ml. of acetonitrile were heated at reflux temperatures under nitrogen for 112 hours. The mixture was then concentrated and the resultant white foam was purified by column chromatography on Silica gel (Baker 60-200 mesh) using 5% methanol in methylene chloride as eluent. After removal of starting materials and less polar impurities, the desired [4-(cyclopropanecarbonylaminocarbonyl)butyl]triphenylphosphonium bromide was obtained as a white hygroscopic foam weighing 2.42 g. (23.8% yield).

reactant | N-cyclopropanecarbonyl-5-bromovaleramide | 20 mmoles | C1(CC1)C(=O)NC(CCCCBr)=O | C9H14BrNO2
reactant | triphenylphosphine | 30 mmoles | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
product | [4-(cyclopropanecarbonylaminocarbonyl)butyl]triphenylphosphonium bromide | 23.8% yield | [Br-].C1(CC1)C(=O)NC(=O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H28NO2P.BrH/c29-26(28-27(30)22-19-20-22)18-10-11-21-31(23-12-4-1-5-13-23,24-14-6-2-7-15-24)25-16-8-3-9-17-25;/h1-9,12-17,22H,10-11,18-21H2;1H
